US07129232B2
To a suspension of 1-methyl-1H-pyrazole-4,5-diamine sulfate (86 g) in tetrahydrofuran (1.3 L) was added triethylamine (117 ml), and then (2S)-4-[(tert-butoxycarbonyl)amino]-2-hydroxybutanoic acid (82.5 g) was added to the mixture. To the mixture were added 1-hydroxybenzotriazole (58.3 g) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (82.7 g) under ice-cooling. The reaction mixture was stirred at room temperature for 8 hours. To the reaction mixture were added ethyl acetate (1.3 L), saturated aqueous sodium hydrogen carbonate solution and sodium chloride, and the mixture was stirred for 30 minutes. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (1.0 L) six times. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with ethyl acetate/tetrahydrofuran (1/1) to give tert-butyl {(3S)-4-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-hydroxy-4-oxobutyl}carbamate (69.5 g).

reactant | 1-methyl-1H-pyrazole-4,5-diamine sulfate | 86 g | S(=O)(=O)(O)O.CN1N=CC(=C1N)N
reactant | (2S)-4-[(tert-butoxycarbonyl)amino]-2-hydroxybutanoic acid | 82.5 g | C(C)(C)(C)OC(=O)NCC[C@@H](C(=O)O)O | C9H17NO5
reactant | 1-hydroxybenzotriazole | 58.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 82.7 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 1.3 L | O1CCCC1 | C4H8O
solvent | ethyl acetate | 1.3 L | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 117 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl {(3S)-4-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-hydroxy-4-oxobutyl}carbamate | 69.5 g | NC1=C(C=NN1C)NC([C@H](CCNC(OC(C)(C)C)=O)O)=O | C13H23N5O4
